US05102877
To a solution of allyl (5R,6S)-3-(1-allyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.280 g) in tetrahydrofuran (9 ml) were added successively triphenylphosphine (0.094 g), 5,5-dimethyl-1,3-cyclohexanedione (dimedone) (0.201 g) and tetrakis(triphenylphosphine) palladium(0) (41.5 mg). After stirring at ambient temperature for 1 hour, the mixture was poured into a mixture of cold water (50 ml) and ethyl acetate (30 ml). The separated aqueous layer was washed with ethyl acetate (30 ml×2) and concentrated in vacuo to remove the organic solvent. The residue was chromatographed on acid aluminum oxide (3 ml) eluting with water. The fractions containing the desired compound were collected and chromatographed on nonionic adsorption resin, "Diaion HP-20" (Trademark, made by Mitsubishi Chemical Industries) (20 ml) eluting with water. The fractions containing the desired compound were collected and lyophilized to give (5R,6S)-6-[ (1R)-1-hydroxyethyl]-7-oxo-3-(1,2,3,6-tetrahydropyridin-4-yl)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (68 mg).

reactant | allyl (5R,6S)-3-(1-allyloxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.280 g | C(C=C)OC(=O)N1CCC(=CC1)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC=C | C21H26N2O6
reactant | triphenylphosphine | 0.094 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5,5-dimethyl-1,3-cyclohexanedione | 0.201 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 41.5 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (5R,6S)-6-[ (1R)-1-hydroxyethyl]-7-oxo-3-(1,2,3,6-tetrahydropyridin-4-yl)-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 68 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)C=1CCNCC1 | C14H18N2O4
